US07807673B2
2,2,2-Trifluoro-N-(5-{[4-(2-{3-[(2-thienylacetyl)amino]phenyl}pyrazolo[1,5-a]pyridin-3-yl)-2-pyrimidinyl]amino}-2,3-dihydro-1H-inden-2-yl)acetamide (61 mg, 0.09 mmol) was stirred with LiOH (20 mg, 0.47 mmol) in MeOH (5 mL) at rt. After 24 h. additional LiOH (20 mg, 0.47 mmol) was added and the reaction stirred until complete conversion was indicated by LC/MS analysis. The MeOH was removed under vacuum and the residue partitioned between EtOAc and water. The organic was washed with brine and dried with MgSO4. The solvent was removed and the crude product was purified by silica gel flash column chromatography (DCM: 0-100% 90:9:1 DCM:MeOH:NH4OH(aq)) and yielded 40 mg (77%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 10.32 (s, 1H), 9.37 (s, 1H), 8.79 (d, J=7.0 Hz, 1H), 8.45 (d, J=8.6 Hz, 1H), 8.19 (d, J=5.3 Hz, 1H), 7.86 (s, 1H), 7.72 (d, J=8.1 Hz, 1H), 7.62 (s, 1H), 7.46-7.32 (m, 4H), 7.24 (d, J=7.6 Hz, 1H), 7.09 (t, J=6.9 Hz, 1H), 7.01 (d, J=8.0 Hz, 1H), 6.95 (m, 1H), 6.42 (d, J=5.3 Hz, 1H), 3.85 (s, 2H), 3.65 (m, 1H), 2.94 (dd, J=15.5, 6.8 Hz, 2H), 2.47 (m, 2H), 1.83 (s, 2H). ES-LC/MS m/z=558 [M+H]+.

reactant | 2,2,2-Trifluoro-N-(5-{[4-(2-{3-[(2-thienylacetyl)amino]phenyl}pyrazolo[1,5-a]pyridin-3-yl)-2-pyrimidinyl]amino}-2,3-dihydro-1H-inden-2-yl)acetamide | 0.09 mmol, 61 mg | FC(C(=O)NC1CC2=CC=C(C=C2C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=CC=C2)NC(CC=2SC=CC2)=O)(F)F | C34H26F3N7O2S
reactant | LiOH | 0.47 mmol, 20 mg | [Li+].[OH-]
reactant | LiOH | 0.47 mmol, 20 mg | [Li+].[OH-]
solvent | MeOH | 5 mL | CO | CH4O
product | N-[3-(3-{2-[(2-Amino-2,3-dihydro-1H-inden-5-yl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | 40 mg, 77% | NC1CC2=CC=C(C=C2C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C32H27N7OS
